US07932246B2
N-Hydroxy 2-{6-[[2-(2-methylimidazol-1-yl)ethyl](naphthalene-2-sulfonyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide—Example 47
To a solution of ethyl 2-{6-[[2-(2-methylimidazol-1-yl)ethyl](naphthalene-2-sulfonyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxylate (0.211 g, 0.38 mmol) in EtOH (6 ml) in a sealed tube, was added hydroxylamine hydrochloride (0.460 g, 6.6 mmol) and sodium ethoxide (0.358 g, 5.3 mmol). The mixture was heated at 50° C. for 18 h, then water (20 ml) was added, and the product extracted with DCM (3×100 ml) and EtOAc (2×100 ml). The combined organic extracts were dried (MgSO4) and concentrated and the product purified by recrystallisation (MeOH) to give the title compound as a white solid (40 mg, 20%). LCMS Purity >98%, m/z 534 [M+H]+, 1H NMR (300 MHz, d6-DMSO) δ: 1.71 (1H, m), 1.82 (2H, m), 2.34 (3H, s), 3.43-3.55 (4H, m), 3.71 (2H, d, J=11.9 Hz), 4.14 (2H, t, J=6.5 Hz), 6.76 (1H, d, J=1.2 Hz), 7.08 (1H, d, J=1.2 Hz), 7.66-7.76 (2H, m), 7.88 (1H, dd, J=1.8, 10.5 Hz), 8.06 (1H, dd, J=2.0, 7.1 Hz), 8.18 (1H, d, J=8.7 Hz), 8.25 (1H, dd, J=2.0, 8.9 Hz), 8.57-8.62 (3H, m), 8.98 (1H, br s), 11.02 (1H, br s).

reactant | ethyl 2-{6-[[2-(2-methylimidazol-1-yl)ethyl](naphthalene-2-sulfonyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxylate | 0.38 mmol, 0.211 g | CC=1N(C=CN1)CCN(C1C2CN(CC12)C1=NC=C(C=N1)C(=O)OCC)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C28H30N6O4S
reactant | hydroxylamine hydrochloride | 6.6 mmol, 0.460 g | Cl.NO
reactant | sodium ethoxide | 5.3 mmol, 0.358 g | [O-]CC.[Na+]
reactant | water | 20 ml | O | H2O
solvent | EtOH | 6 ml | CCO | C2H6O
product | N-Hydroxy 2-{6-[[2-(2-methylimidazol-1-yl)ethyl](naphthalene-2-sulfonyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide | 40 mg, 20% | ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)N(S(=O)(=O)C1=CC2=CC=CC=C2C=C1)CCN1C(=NC=C1)C | C26H27N7O4S
